US06413983B1
Preparation of 2,3-Dihydro-1H-indole-2-carboxylic acid ethyl ester
To cooled trifluoroacetic acid (40 mL) at 0° C., NaCNBH3 (1.57 g, 25 mmol) was added portionwise with stirring. The reaction mixture was stirred for 15 min, and to which indole-2-carboxylic acid ethyl ester (1.2 g, 6.35 mmol) was added slowly, then the mixture was stirred at rt for an hour. After the completion of the reaction, water (150 mL) was added to the mixture, and which was stirred for 5 hr. The reaction was extracted by CH2Cl2 (40 mL×3), then organic layer was washed with saturated aqueous solution of NaHCO3 (40 mL×2) and water (40 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=9:1) to give the desired compound (1.09 g, 90%).

reactant | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaCNBH3 | 25 mmol, 1.57 g | [BH3-]C#N.[Na+]
reactant | indole-2-carboxylic acid ethyl ester | 6.35 mmol, 1.2 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
solvent | water | 150 mL | O | H2O
product | 2,3-Dihydro-1H-indole-2-carboxylic acid ethyl ester | 1.09 g, 90% | C(C)OC(=O)C1NC2=CC=CC=C2C1 | C11H13NO2
